US07744658B2
1-[(1-Methyl-1H-indol-3-yl)methylene]-2,3-dihydro-1H-indolizinium chloride [1]
1.55 g of 2,3-dihydro-1H-indolizinium chloride and 1.59 g of 1-methylindole-3-carboxaldehyde were suspended in 15 ml of isopropanol, in a 50 ml three-necked flask. The reaction mixture was heated at 80° C. and then 820 μl of pyrrolidine were introduced. The reaction mixture was immediately cooled to ambient temperature. The precipitate was filtered off, and washed with 2 times 30 ml of isopropanol before being dried under a strong vacuum in the presence of P2O5, until a constant weight was obtained. 2.59 g of orange powder were recovered. The analyses (NMR) (d6-DMSO) and mass spectrometry ESI+M/Z=261) were in conformity with the expected structure.

reactant | 2,3-dihydro-1H-indolizinium chloride | 1.55 g | [Cl-].C1CC[N+]2=CC=CC=C12
reactant | 1-methylindole-3-carboxaldehyde | 1.59 g | CN1C=C(C2=CC=CC=C12)C=O | C10H9NO
reactant | pyrrolidine | 820 μl | N1CCCC1 | C4H9N
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 1-[(1-Methyl-1H-indol-3-yl)methylene]-2,3-dihydro-1H-indolizinium chloride | [Cl-].CN1C=C(C2=CC=CC=C12)C=C1CC[N+]2=CC=CC=C12 | InChI=1S/C18H17N2.ClH/c1-19-13-15(16-6-2-3-8-18(16)19)12-14-9-11-20-10-5-4-7-17(14)20;/h2-8,10,12-13H,9,11H2,1H3;1H/q+1;/p-1
